US09233098B2
5. Preparation of methyl 2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetate
2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetic acid (317 mg a crude) was dissolved in 15 mL methanol, and concentrated sulfuric acid 0.5 mL was added dropwise. It was heated to 70° C. and reacted for 12 hours. The reaction was monitored to be complete by LC-MS. 50 mL water was added, and the pH was adjusted to be weak basic with potassium carbonate. Methanol was rotate evaporated. It was extracted with ethyl acetate, dried over anhydrous sodium sulfate, and rotate evaporated to dryness to obtain a light yellow solid 250 mg, at a yield over two steps of 73.6%.

reactant | 2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetic acid | 317 mg | N1N=C(C=2C1=NC=CC2)CC(=O)O | C8H7N3O2
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 mL | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | methyl 2-(1H-pyrazolo[3,4-b]pyridin-3-yl)acetate | 250 mg | N1N=C(C=2C1=NC=CC2)CC(=O)OC | C9H9N3O2
